US08168667B2
4-[2,5-dioxo-4-(4-hydroxyphenyl)-4-methylimidazolidin-1-yl]-2-trifluoromethylbenzonitrile
This product is prepared as in Example 5, starting from 10.71 g of methyl 2-amino-2-(4-hydroxyphenyl)propionate using 4-cyano-3-trifluoromethylphenyl isocyanate. 16.83 g of product are obtained (Yd=82%).

reactant | methyl 2-amino-2-(4-hydroxyphenyl)propionate | 10.71 g | NC(C(=O)OC)(C)C1=CC=C(C=C1)O | C10H13NO3
reactant | 4-cyano-3-trifluoromethylphenyl isocyanate | C(#N)C1=C(C=C(C=C1)N=C=O)C(F)(F)F | C9H3F3N2O
product | 4-[2,5-dioxo-4-(4-hydroxyphenyl)-4-methylimidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 16.83 g | O=C1N(C(C(N1)(C)C1=CC=C(C=C1)O)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C18H12F3N3O3
